US09447090B2
To a solution of 1.15 g of tert-butyl (3R)-3-{benzyl[(1R)-1-phenylethyl]amino}heptanoate in 30 ml of methanol was added 450 mg of 10% palladium-carbon, followed by stirring overnight under a hydrogen atmosphere at 4 atm. The reaction mixture was filtered over Celite and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 460 mg of tert-butyl (3R)-3-aminoheptanoate.

reactant | tert-butyl (3R)-3-{benzyl[(1R)-1-phenylethyl]amino}heptanoate | 1.15 g | C(C1=CC=CC=C1)N([C@@H](CC(=O)OC(C)(C)C)CCCC)[C@H](C)C1=CC=CC=C1 | C26H37NO2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium-carbon | 450 mg | [C].[Pd]
product | tert-butyl (3R)-3-aminoheptanoate | 460 mg | N[C@@H](CC(=O)OC(C)(C)C)CCCC | C11H23NO2
